US07153854B2
To a solution of ethyl 5-[2-(aminomethyl)-7-ethyl-4-(5-methyl-3-pyridinyl)pyrrolo[1,2-b]pyridazin-3-yl]pentanoate (80 mg) and pyridine (1 mL) in dichloromethane (2 mL) was added methyl chloridocarbonate (34.8 mg) under ice-water cooling and the mixture was stirred at ambient temperature for 2 hours. After evaporation of solvent, the residue was partitioned between ethyl acetate and water. The organic layer was separated, washed with saturated sodium bicarbonate solution and brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by preparative silica gel column chromatography eluting with a mixture of chloroform and methanol (20:1) to give ethyl 5-[7-ethyl-2-{[(methoxycarbonyl)amino]methyl}-4-(5-methyl-3-pyridinyl)pyrrolo[1,2-b]pyridazin-3-yl]pentanoate as yellow oil (70 mg).

reactant | ethyl 5-[2-(aminomethyl)-7-ethyl-4-(5-methyl-3-pyridinyl)pyrrolo[1,2-b]pyridazin-3-yl]pentanoate | 80 mg | NCC=1C(=C(C=2N(N1)C(=CC2)CC)C=2C=NC=C(C2)C)CCCCC(=O)OCC | C23H30N4O2
reactant | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
reactant | methyl chloridocarbonate | 34.8 mg | COC(=O)Cl | C2H3ClO2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | ethyl 5-[7-ethyl-2-{[(methoxycarbonyl)amino]methyl}-4-(5-methyl-3-pyridinyl)pyrrolo[1,2-b]pyridazin-3-yl]pentanoate | 70 mg | C(C)C1=CC=C2N1N=C(C(=C2C=2C=NC=C(C2)C)CCCCC(=O)OCC)CNC(=O)OC | C25H32N4O4
